US04009328
Dissolve 500 mg. of Aminoglycoside 66-40C in a solution of 7 ml. of 2-phenylethylamine and 7 ml. of ethanol, add 2 drops of phosphoric acid and heat in a sealed vessel at 70° C for 16 hours and then at 100° C for 5 hours. Cool the solution and add 500 mg. of sodium borohydride and stir for 1 hour at 25° C. Pass the solution through Amberlite IRA 401S (OH-) resin and extract the aqueous solution with benzene. Adjust the pH of the aqueous layer to 9 by the addition of acetic acid. Re-wash the benzene extract with water and combine the water wash with the previous aqueous extract and evaporate. Chromatograph the resulting residue on a silica gel column eluting with the lower phase of a chloroform-methanol-concentrated ammonium hydroxide solution (2:1:1). Concentrate the eluates and dissolve the residue in water and pass down a column of Amberlite IRA 401S (OH-) resin and lyophilize to obtain a residue of (67 mg) 6'-N-(2-phenylethyl)sisomicin; [α]D26 + 137.7° (c 0.3%,H2O); C.D.: [θ]288 -8,230 (TACu); [θ]290 -6,620 (Cupra A); I.R.: ν max (KBr) 3300, 1650, 1055, 1030 cm-1 ; N.M.R.: δ(D2O)1.15(3 H,s,4"-CH3), 2.47(3 H,s,3"-NCH3), 2.77 (4H,s,6'-NCH2CH2C6H5), 3.11 (2H,s,6'-CH2), 4.79(1H,m,H4 '), 5.03 (1H,d,J 4Hz, H1 "), 5.20 (1H,d,J 2Hz, H1 '), 7.30 and 7.32 ppm (5H,s, -C6H5);m/e 551.3333.(M.+) (C27H45N5O7 requires: m/e 551.3319).

reactant | Aminoglycoside 66-40C | CC1(COC(C(C1NC)O)OC2C(CC3C(C2O)OC4C(CC=C(O4)C=NC5CC(C(C(C5OC6C(CC=C(O6)C=N3)N)O)OC7C(C(C(CO7)(C)O)NC)O)N)N)N)O | C38H64N8O14
reactant | 2-phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
catalyst | phosphoric acid | 2 drops | P(O)(O)(O)=O | H3O4P
product | 6'-N-(2-phenylethyl)sisomicin | 67 mg | CC1(COC(C(C1NC)O)OC2C(CC(C(C2O)OC3C(C=C(CO3)CNCCC4=CC=CC=C4)N)N)N)O | C27H45N5O7
